US04657908
A mixture of thiocytosine (0.5 g.), N-(4-chlorobut-2-ynyl)phthalimide (1.03 g.), DMF (5 ml.) and 1,5-diazabicyclo[5,4,0]undec-5-ene (0.67 g.) was stirred for 2 hours. The solution was treated with water (20 ml.) and EtOAc (10 ml.) and the insoluble solid collected to give 4-amino-2-(4-phthalimidobut-2-ynylthio)pyrimidine (1.2 g.) m.p. 197°-202° (decomp.).

reactant | thiocytosine | 0.5 g | N1C(=S)N=C(N)C=C1 | C4H5N3S
reactant | N-(4-chlorobut-2-ynyl)phthalimide | 1.03 g | ClCC#CCN1C(C=2C(C1=O)=CC=CC2)=O | C12H8ClNO2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 1,5-diazabicyclo[5,4,0]undec-5-ene | 0.67 g | N12CCCN=CC2CCCC1 | C9H16N2
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
product | 4-amino-2-(4-phthalimidobut-2-ynylthio)pyrimidine | 1.2 g | NC1=NC(=NC=C1)SCC#CCN1C(C=2C(C1=O)=CC=CC2)=O | C16H12N4O2S
